US09422331B2
To a rt solution of tert-butyl methyl((S)-1-((2S,3S)-2-methyl-4-oxo-1-(tetrahydro-2H-pyran-4-carbonyl)-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl)carbamate (111 mg, 227 μmol) in DMF (568 μl) was added 2-(3-(bromomethyl)-1H-indazol-1-yl)benzonitrile (85.1 mg, 273 μmol), cesium carbonate (96.2 mg, 295 μmol), and sodium iodide (44.3 mg, 295 μmol). The reaction was stirred at rt for 2.5 days, then diluted with EtOAc, washed with H2O and sat. aq. NaCl, dried over Na2SO4, filtered, and concentrated. The crude material was purified by flash chromatography to provide tert-butyl(S)-1-((3S,4S)-1-((1-(2-cyanophenyl)-1H-indazol-3-yl)methyl)-4-methyl-2-oxo-5-(tetrahydro-2H-pyran-4-carbonyl)-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl(methyl)carbamate (128 mg, 78%) as an off-white solid. MS m/z 742 (MNa)+.

reactant | tert-butyl methyl((S)-1-((2S,3S)-2-methyl-4-oxo-1-(tetrahydro-2H-pyran-4-carbonyl)-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl)carbamate | 227 μmol, 111 mg | CN(C(OC(C)(C)C)=O)[C@H](C(=O)N[C@@H]1C(NC2=C(N([C@H]1C)C(=O)C1CCOCC1)C=CC=C2)=O)C | C25H36N4O6
reactant | 2-(3-(bromomethyl)-1H-indazol-1-yl)benzonitrile | 273 μmol, 85.1 mg | BrCC1=NN(C2=CC=CC=C12)C1=C(C#N)C=CC=C1 | C15H10BrN3
reactant | cesium carbonate | 295 μmol, 96.2 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | sodium iodide | 295 μmol, 44.3 mg | [I-].[Na+]
solvent | DMF | 568 μl | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-butyl(S)-1-((3S,4S)-1-((1-(2-cyanophenyl)-1H-indazol-3-yl)methyl)-4-methyl-2-oxo-5-(tetrahydro-2H-pyran-4-carbonyl)-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl(methyl)carbamate | 128 mg, 78% | C(#N)C1=C(C=CC=C1)N1N=C(C2=CC=CC=C12)CN1C2=C(N([C@H]([C@@H](C1=O)NC([C@H](C)N(C(OC(C)(C)C)=O)C)=O)C)C(=O)C1CCOCC1)C=CC=C2 | C40H45N7O6
